US04436664
A 5,000 mL, 3-necked flask equipped with a mechanical stirrer, thermometer and 500 mL addition funnel was charged with tetraethylene glycol (388 g, 2.0 mol) dichloromethane (1,500 mL) and triethylamine (445 g, 4.40 mol). The mixture was stirred and cooled to ca. 5° C., and methanesulfonyl chloride (470 g, 4.1 mol) was added dropwise over 3 hours. The reaction mixture was stirred an additional 3 hours while warming to 25° C., then water (1,000 mL) was added and the phases were separated. The organic layer was washed with ice-cold 6 N HCl (2×1,000 mL) and then washed with 5% Na2CO3, saturated aqueous NaCl, dried, filtered and evaporated in vacuo to yield 627 g (90%) of tetraethylene glycol dimesylate, i.e.,

reactant | tetraethylene glycol | 2.0 mol, 1,500 mL, 388 g | C(COCCOCCOCCO)O | C8H18O5
reactant | triethylamine | 4.40 mol, 445 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.1 mol, 470 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | 1,000 mL | O | H2O
product | tetraethylene glycol dimesylate | 627 g, 90% | S(C)(=O)(=O)OCCOCCOCCOCCOS(C)(=O)=O | C10H22O9S2
